US05114944
2-Phenylpyrazolo[1.5-a]pyrimidine-3-acetamide
A mixture of 3.5 g (0.013 mole) of 2-phenylpyrazolo[1,5-a]pyrimidine-3-acetic acid and 2.24 g (0.013 mole) of 1,1'-carbonyldiimidazole in 150 ml of anhydrous tetrahydrofuran was stirred for 3 hours at room temperature while nitrogen was bubbled through the mixture. The reaction mixture was cooled in a dry ice/acetone bath, and treated with 50 ml of liquid ammonia. The reaction mixture was warmed to room temperature and stirred for two days. The suspended solid which formed was collected by filtration (2.81 g, mp 204°-219° C.) combined with the residue from evaporation of the filtrate (3.1 g), and recrystallized from ethanol to give 2.1 g of product (60%), mp 217°-219° C.

reactant | 2-phenylpyrazolo[1,5-a]pyrimidine-3-acetic acid | 0.013 mole, 3.5 g | C1(=CC=CC=C1)C1=NN2C(N=CC=C2)=C1CC(=O)O | C14H11N3O2
reactant | 1,1'-carbonyldiimidazole | 0.013 mole, 2.24 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | 2-Phenylpyrazolo[1.5-a]pyrimidine-3-acetamide | 2.1 g, 60% | C1(=CC=CC=C1)C1=NN2C(N=CC=C2)=C1CC(=O)N | C14H12N4O
